US06855710B2
b) 1-benzoyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone
Prepared analogously to Example 2b from 1-benzoyl-3-(1-hydroxy-1-phenyl-methylidene)-2-indolinone and phosphorus pentachloride in toluene.

reactant | 1-benzoyl-3-(1-hydroxy-1-phenyl-methylidene)-2-indolinone | C(C1=CC=CC=C1)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)O)=O | C22H15NO3
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-benzoyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone | C(C1=CC=CC=C1)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)Cl)=O | C22H14ClNO2
